US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (266 mg, 1.0 mmol) was treated with 3-pyrrolidin-1-yl-propylamine following general procedure B to afford 8-methoxy-4-(3-pyrrolidin-1-yl-propylamino)-quinoline-3-carboxylic acid ethyl ester (315 mg). Thus obtained amino-ester (36 mg, 0.1 mmol) was subjected to reaction with ethyl isocyanate according to general procedure C to furnish 3-ethyl-7-methoxy-1-(3-pyrrolidin-1-yl-propyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (19 mg). LCMS: m/z 383 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.0 mmol, 266 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 3-pyrrolidin-1-yl-propylamine | N1(CCCC1)CCCN | C7H16N2
product | 8-methoxy-4-(3-pyrrolidin-1-yl-propylamino)-quinoline-3-carboxylic acid ethyl ester | 315 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCN1CCCC1)OC | C20H27N3O3
